Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tetracycline Analogues
 
Attending: ___.
 
Chief Complaint:
 dyspnea/chest pressure on exertion
 
Major Surgical or Invasive Procedure:
Cardiac cath on ___

 
History of Present Illness:
___ with PMH of HLD, hypothyroidism and depression who went to 
PCP for persistent symptoms of cough, dyspnea and fatigue and 
then sent into the ED for evaluation of chest pain. 

Our patient went to ___ Clinic ___ weeks ago for a cough, 
fever and diagnosed with pneumonia/laryngitis. Given z-pack and 
since improved. Last night had diaphoresis and pre-syncope while 
socializing at a dinner party. She also describes chest pain in 
the middle of shoulder blades. Attributes it to coughing and has 
been ongoing for approx 3 weeks with associated cough/cold-like 
symptoms. 

With walking, chest pain increases. Last week played tennis and 
felt significant SOB. Described as heaviness in chest. Of note, 
___ years ago had syncope at ___ Maxx and noted to have 
"irregular heart beat" - taken to ___. Had associated 
chest pain. Admitted for 3 days at ___. No history of 
blood clots. Flight of 3 hours 3 weeks ago. No leg swelling. No 
hospitalizations/history of cancer. 

On arrival to the ED VS: 4 98.2 86 128/68 18 99% RA. EKG showed 
no significant ischemic changes. The patient had two negative 
trops and had an exercise stress test the next morning in the 
ED. The stress test was stopped due to chest pain and ST 
depression in the inferior leads. The patient was recommended to 
be admitted for catheterization. 

On arrival to the floor the patient's VS: 98.4 136/65 78 16 
95RA. The patient had no complaints and was in no distress. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: +dyslipidemia
2. CARDIAC HISTORY:
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: None
3. OTHER PAST MEDICAL HISTORY:
HLD
Depression
Hypothyroidism
 
Social History:
___
Family History:
Mom with MI in ___ old
 
Physical Exam:
ADMISSION
VS: 4 98.2 86 128/68 18 99% RA
GENERAL: NAD. Oriented x3. Mood, affect appropriate. obese
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with JVP up to clavicle while lying at 45 degrees.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

DISCHARGE
VS - see scanned records
Genl: comfortable, NAD
HEENT: no icterus, MMM, no OP lesions
Neck: no JVD
Cor: RRR NMRG
Pulm: CTAB
Abd: soft, ntnd
Neuro: AOx3
Skin: no lesions or rashes

 
Pertinent Results:
Labs

___ 08:50PM BLOOD WBC-6.7 RBC-4.16 Hgb-12.2 Hct-38.1 MCV-92 
MCH-29.3 MCHC-32.0 RDW-12.3 RDWSD-41.0 Plt ___
___ 08:50PM BLOOD Neuts-41.0 ___ Monos-10.6 Eos-4.0 
Baso-0.4 Im ___ AbsNeut-2.74 AbsLymp-2.94 AbsMono-0.71 
AbsEos-0.27 AbsBaso-0.03
___ 05:45AM BLOOD WBC-5.9 RBC-4.18 Hgb-12.1 Hct-38.2 MCV-91 
MCH-28.9 MCHC-31.7* RDW-12.2 RDWSD-40.8 Plt ___

___ 10:12PM BLOOD ___ PTT-27.4 ___
___ 05:45AM BLOOD ___ PTT-27.0 ___

___ 08:50PM BLOOD Glucose-97 UreaN-10 Creat-0.7 Na-143 
K-4.7 Cl-103 HCO3-29 AnGap-16
___ 05:45AM BLOOD Glucose-95 UreaN-14 Creat-0.8 Na-140 
K-4.0 Cl-102 HCO3-31 AnGap-11
___ 05:45AM BLOOD ALT-29 AST-26 LD(LDH)-149 CK(CPK)-113 
AlkPhos-88 TotBili-0.4
___ 05:45AM BLOOD Calcium-9.2 Phos-4.6* Mg-2.1

___ 08:50PM BLOOD cTropnT-<0.01
___ 03:00AM BLOOD cTropnT-<0.01
___ 05:45AM BLOOD CK-MB-<1 cTropnT-<0.01

___ 10:40PM BLOOD D-Dimer-247

Micro

None this admission

Studies

___ Physician ___ 
___:
Normal coronary arteries

___
Sinus rhythm. Non-specific ST-T wave changes. Compared to the 
previous
tracing of ___ no change.

___
Atypical anginal symptoms with non specific EKG changes.
Good functional capacity.

___ (PA & LAT)
No acute cardiopulmonary process.
 
Brief Hospital Course:
___ hx HLD, hypothyroidism, depression, MS ___ on medication, 
no flares for some time) who presented with chest pain 
concerning for angina.

# Atypical chest pain: ECG with findings concerning for 
multivessel disease, including inferior Q waves and TWI in ___ 
territory; also had abnormal stress test. She underwent cath on 
___ which showed normal coronaries. Given these cath 
results, her home medications were resumed; ASA and metop were 
discontinued, and atorva was decreased to home dosing. 

Transitional issues:
- consider further evaluation if chest pain persists
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Citalopram 20 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Atorvastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
Acute coronary syndrome

Secondary diagnosis
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Miss ___,

You were admitted due to chest pain. You had a cardiac cath 
done; your heart blood vessels appeared normal. We are not sure 
why you had chest pain, but it does not appear there is a 
life-threatening problem. 

Please follow up with your doctor soon after discharge. It was a 
pleasure being part of your care. 

Your ___ team
 
Followup Instructions:
___